US06821967B2
9-{4-[4-(4-methyl-quinolin-2-yl)-piperazin-1-yl]-butyl}-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide
Prepared analogously to Example 2 from 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide and 4-methyl-2-piperazin-1-yl-quinoline.

reactant | 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide | FC(CNC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCBr)(F)F | C20H19BrF3NO
reactant | 4-methyl-2-piperazin-1-yl-quinoline | CC1=CC(=NC2=CC=CC=C12)N1CCNCC1 | C14H17N3
product | 9-{4-[4-(4-methyl-quinolin-2-yl)-piperazin-1-yl]-butyl}-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide | FC(CNC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCN1CCN(CC1)C1=NC2=CC=CC=C2C(=C1)C)(F)F | C34H35F3N4O
